US07030141B2
Step 1: N-tert-Butyl-4-fluoro-benzenesulfonamide
Into a DCM solution (50 mL) of tert-butylamine (5.9 mL, 56.5 mmol) and triethylamine (7.16 mL, 51.3 mmol) at 0° C. was slowly added a DCM solution (20 mL) of 4-fluoro-benzenesulfonyl chloride (10 g, 51.3 mmol), and the reaction stirred at RT for 19 h. The reaction was concentrated and the resulting solid recrystalized from ether/hexanes to get the product (9.5 g, 80% )as white crystals. MS: APCI (AP+): 230.1 (M)+.

reactant | tert-butylamine | 56.5 mmol, 5.9 mL | C(C)(C)(C)N | C4H11N
reactant | triethylamine | 51.3 mmol, 7.16 mL | C(C)N(CC)CC | C6H15N
reactant | 4-fluoro-benzenesulfonyl chloride | 51.3 mmol, 10 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | N-tert-Butyl-4-fluoro-benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC=C(C=C1)F | C10H14FNO2S
